US05322952
To a solution of (1S,4S)-5-allyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one (38.5 mg) in tetrahydrofuran (1 ml) was added 4-methylpiperidine (19.7 mg). The mixture was stirred for 4 hours at room temperature. After the reaction was over, 1N-hydrochloric acid (0.036 ml) was added thereto, and the mixture was diluted with ethyl acetate (2 ml) and dried above magnesium sulfate. Distillation of the solvent, followed by purifying the residue by silica gel chromatography, gave oily 1-[(2S,4S) -1-allyloxycarbonyl-4-mercapto-2-pyrrolidinecarbonyl]-4-methylpiperidine.

reactant | (1S,4S)-5-allyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one | 38.5 mg | C(C=C)OC(=O)N1[C@@H]2C(S[C@H](C1)C2)=O | C9H11NO3S
reactant | 4-methylpiperidine | 19.7 mg | CC1CCNCC1 | C6H13N
reactant | hydrochloric acid | 0.036 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(2S,4S) -1-allyloxycarbonyl-4-mercapto-2-pyrrolidinecarbonyl]-4-methylpiperidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)C(=O)N1CCC(CC1)C | C15H24N2O3S
